US04535090
A solution of 3-(2-benzoyloxymethylphenyl)-5-(3-methoxyphenyl)-1H-1,2,4-triazole (37.1 g, 0.1 mole) in 10% NaOH (160 ml) and 95% ethanol (240 ml) is heated to 70° C. for one hour, then ethanol is distilled under vacuum and the reaction mixture is diluted with water (240 ml) and decolorized with activated carbon. The filtrate is brought to pH 8 by the addition of 10% HCl and stirred at room temperature for a few hours. The solid which separates is recovered by filtration and dried under vacuum yielding 24.2 g of 3-(2-hydroxymethylphenyl)-5-(3-methoxyphenyl)-1H-1,2,4-triazole. M.p. 155°-56° C.

reactant | 3-(2-benzoyloxymethylphenyl)-5-(3-methoxyphenyl)-1H-1,2,4-triazole | 0.1 mole, 37.1 g | C(C1=CC=CC=C1)(=O)OCC1=C(C=CC=C1)C1=NNC(=N1)C1=CC(=CC=C1)OC | C23H19N3O3
solvent | NaOH | 160 ml | [OH-].[Na+]
solvent | ethanol | 240 ml | C(C)O | C2H6O
product | 3-(2-hydroxymethylphenyl)-5-(3-methoxyphenyl)-1H-1,2,4-triazole | 24.2 g | OCC1=C(C=CC=C1)C1=NNC(=N1)C1=CC(=CC=C1)OC | C16H15N3O2
